US04337341
A solution of 2.17 g. of 4a-(3-hydroxyphenyl)-2,3,4,4a,5,6,7,7a-octahydro-1H-2-pyrindine prepared as described in Example 23 in 50 ml. of N,N-dimethylformamide containing 3.95 g. of triethylamine was stirred at room temperature while 3.87 g. of phenylacetyl chloride was added dropwise over 15 minutes. Following complete addition, the reaction mixture was heated at 70° C. for two hours, and then poured into 200 ml. of water. The aqueous reaction mixture was extracted several times with diethyl ether, and the ethereal extracts were combined, washed with saturated aqueous sodium chloride solution and with water, and dried. Removal of the solvent by evaporation under reduced pressure afforded 4a-(3-hydroxyphenyl)-2-(2-phenylacetyl)-2,3,4,4a,-5,6,7,7a-octahydro-1H-2-pyrindine. Such product was dissolved in 50 ml. of tetrahydrofuran and stirred while a solution of 4.0 g. of lithium aluminum hydride in 150 ml. of tetrahydrofuran was added dropwise over thirty minutes. The reaction mixture was then heated at reflux for four hours, and then cooled to about 25° C. While the reaction mixture was stirred, 25 ml. of ethyl acetate was added, followed by the addition of a saturated aqueous solution of ammonium tartrate. The reaction mixture was then filtered and the filtrate was concentrated by evaporation of the solvent under reduced pressure. The product thus formed was dissolved in diethyl ether and washed with water and dried. Removal of the solvent then provided 4a-(3-hydroxyphenyl)-2-(2-phenylethyl)- 2,3,4,4a,5,6,7,7a-octahydro-1H-2-pyrindine as an oil. The oil was dissolved in 150 ml. of diethyl ether and stirred while a fifty percent solution of 48% hydrobromic acid in ethanol was added. The hydrobromide salt of the above-named product crystallized and was collected by filtration, affording, after recrystallization from ethyl acetate, 1.3 g. of 4-a-(3-hydroxyphenyl)-2-(2-phenylethyl-2,3,4,4a,5,6,7,7a-octahydro-1H-2-pyrindinium bromide. M. P. 135-137° C.

reactant | 4a-(3-hydroxyphenyl)-2,3,4,4a,5,6,7,7a-octahydro-1H-2-pyrindine | OC=1C=C(C=CC1)C12CCNCC2CCC1 | C14H19NO
reactant | N,N-dimethylformamide | 3.95 g | CN(C=O)C | C3H7NO
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | phenylacetyl chloride | C1(=CC=CC=C1)CC(=O)Cl | C8H7ClO
solvent | water | O | H2O
product | 4a-(3-hydroxyphenyl)-2-(2-phenylacetyl)-2,3,4,4a,-5,6,7,7a-octahydro-1H-2-pyrindine | OC=1C=C(C=CC1)C12CCN(CC2CCC1)C(CC1=CC=CC=C1)=O | C22H25NO2
